US05011975
48 ml of allylmercaptan and 129.6 g of trityl alcohol were suspended in 500 ml of acetic acid and 2.0 ml of concentrated sulfuric acid was dropwise added thereto at room temperature with stirring. Then, the mixture was further stirred for one hour under the same conditions as above, and the precipitates were recovered therefrom by filtration, washed with 200 ml of methanol and then thoroughly washed with water. The resulting colorless powder was dissolved in benzene, washed with an aqueous 5% sodium hydrogen carbonate solution and then with water, and dried over anhydrous magnesium sulfate, and the solvent was removed therefrom by distillation under reduced pressure. The residue was treated with a small amount of methanol to obtain 130 g of allyl tritylsulfide (melting point: 99°-101° C.).

reactant | allylmercaptan | 48 ml | C(C=C)S | C3H6S
reactant | trityl alcohol | 129.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)O | C19H16O
reactant | sulfuric acid | 2.0 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | allyl tritylsulfide | 130 g | C(C=C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H20S
